US07148249B2
1-acetyl-6-chloro-3-[1-methoxy-1-(3,4-methylenedioxyphenyl)methylene]-2-indolinone
A solution of 20.9 g of 1-acetyl-6-chloro-3-[1-hydroxy-1-(3,4-methylenedioxyphenyl)-methylene]-2-indolinone and 40 ml of ethyldiisopropylamine in 200 ml dichloromethane is combined batchwise with 17.3 g of trimethyloxonium tetrafluoroborate, the mixture is stirred overnight and then extracted twice with water. The organic phase is dried with magnesium sulphate and evaporated to dryness. The residue is stirred with methanol, suction filtered, washed with methanol and dried at 80° C.

reactant | 1-acetyl-6-chloro-3-[1-hydroxy-1-(3,4-methylenedioxyphenyl)-methylene]-2-indolinone | 20.9 g | C(C)(=O)N1C(C(C2=CC=C(C=C12)Cl)=C(C1=CC2=C(C=C1)OCO2)O)=O | C18H12ClNO5
reactant | ethyldiisopropylamine | 40 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | trimethyloxonium tetrafluoroborate | 17.3 g | F[B-](F)(F)F.C[O+](C)C
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 1-acetyl-6-chloro-3-[1-methoxy-1-(3,4-methylenedioxyphenyl)methylene]-2-indolinone | C(C)(=O)N1C(C(C2=CC=C(C=C12)Cl)=C(C1=CC2=C(C=C1)OCO2)OC)=O | C19H14ClNO5
